US05049558
N.m.r. in solvent B: 4.73 (q, 2H), 6.93 (s, 1H). 15. The method of condensation was that described in Footnote 11. 16. N.m.r. in solvent B: 3.5 (d, 1H), 3.75 (d, 1H), 3.95 (d, 1H), 4.5 (d, 1H), 4.75 (d, 1H), 4.95 (d, 1H), 5.3 (d, 1H), 5.9 (d, 1H), 7.2 (s, 1H). 17. The starting material was prepared by reaction of O-(1-methylimidazol-2-yl)methylhydroxylamine with 2-(2-aminothiazol-4-yl)glyoxylic acid to give 2-(2-aminothiazol-4-yl)-2-[(Z)-(1-methylimidazol-2-yl)-methoxy-imino]acetic acid.

reactant | O-(1-methylimidazol-2-yl)methylhydroxylamine | CN1C(=NC=C1)CON | C5H9N3O
reactant | 2-(2-aminothiazol-4-yl)glyoxylic acid | NC=1SC=C(N1)C(C(=O)O)=O | C5H4N2O3S
product | 2-(2-aminothiazol-4-yl)-2-[(Z)-(1-methylimidazol-2-yl)-methoxy-imino]acetic acid | NC=1SC=C(N1)/C(/C(=O)O)=N/OCC=1N(C=CN1)C | C10H11N5O3S
